US09428490B2
Synthesis of (Z)-3-(3-(3-hydroxy-5-(trifluoromethyl)phenyl)-1H-1,2,4-triazol-1-yl)acrylic acid (1)
A solution of (Z)-isopropyl 3-(3-(3-hydroxy-5-(trifluoromethyl)phenyl)-1H-1,2,4-triazol-1-yl)acrylate (4 g, 1.0 eq.) in THF (40 mL) and water (40 mL) was treated with LiOH (1.92 g, 4 eq.). The reaction mixture was stirred at RT for 2-3 hrs then quenched with acidic ice-water slurry (300 mL) and extracted with EtOAc (3×250 mL). The combined organic layers were washed with dil HCl solution (50 mL), dried over anhydrous Na2SO4 and concentrated under reduced pressure to afford 3 g of crude compound. The resulting crude off-white compound was used as such in the following step. Yield: 85.5%. Mass: (ES+) 299.92 (M+1).

reactant | (Z)-isopropyl 3-(3-(3-hydroxy-5-(trifluoromethyl)phenyl)-1H-1,2,4-triazol-1-yl)acrylate | 4 g, 1.0 eq. | OC=1C=C(C=C(C1)C(F)(F)F)C1=NN(C=N1)\C=C/C(=O)OC(C)C | C15H14F3N3O3
reactant | LiOH | 1.92 g, 4 eq. | [Li+].[OH-]
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | water | 40 mL | O | H2O
product | (Z)-3-(3-(3-hydroxy-5-(trifluoromethyl)phenyl)-1H-1,2,4-triazol-1-yl)acrylic acid | 3 g, Yield: 85.5% | OC=1C=C(C=C(C1)C(F)(F)F)C1=NN(C=N1)\C=C/C(=O)O | C12H8F3N3O3
